US07208513B2
C. [3-(5-(1H-1,2,4-Triazol-5-yl)(1H-indazol-3-yl))phenyl]-N-((1R)indanyl)carboxamide
To a stirred solution of N-((1R)indanyl)(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide (0.292 g, 0.391 mmol) was added dioxane (4.0 mL) and aqueous 6 N hydrochloric acid (4.0 mL) and the mixture heated at 60° C. for 18 h. The mixture was cooled and poured into saturated sodium bicarbonate (50 mL). The aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and evaporated. Addition of ethyl acetate (5 mL) initiated crystal growth and the ethyl acetate phase was pipetted off. The crystals were filtered. Purification by preparative HPLC (30–80% acetonitrile/water) followed by washing with saturated sodium bicarbonate and extraction with ethyl acetate gave the title compound (0.0150 g, 9% yield). 1H NMR (CD3OD) δ 8.80 (s, 1H), 8.55 (s, 1H), 8.23 (d, 1H), 8.13 (d, 1H), 7.96 (dd, 1H), 7.70 (m, 2H), 7.36 (m, 1H), 7.28 (m, 1H), 7.23 (m, 2H), 5.67 (t, 1H), 3.08 (m, 1H), 2.92 (m, 1H), 2.60 (m, 2H), 2.08 (m, 1H). ES-MS (m/z) 421 [M+1]+.

reactant | N-((1R)indanyl)(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide | 0.391 mmol, 0.292 g | [C@H]1(CCC2=CC=CC=C12)NC(=O)C1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C49H42N6O2
reactant | hydrochloric acid | 6 N, 4.0 mL | Cl | ClH
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
product | [3-(5-(1H-1,2,4-Triazol-5-yl)(1H-indazol-3-yl))phenyl]-N-((1R)indanyl)carboxamide | 0.0150 g, 9% yield | N1N=CN=C1C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)N[C@@H]1CCC2=CC=CC=C12 | C25H20N6O
